US06664291B2
N-Cyclopropyl-5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonamide
To a cooled solution of 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride (920 mg, 2.2 mmol) in CH2Cl2 (25 mL) at 0° C. was added triethylamine (470 μL, 3.4 mmol) and cyclopropylamine (170 μL, 2.5 mol). The resulting mixture was stirred at 0° C. for 5 min, then at RT for 6 h. Water (30 mL) and 1N HCl (1 mL) was added and the solution was extracted with EtOAc (3×50 mL). The combined EtOAc extracts were dried and concentrated. The product was purified by chromatography to give the title compound of Step B (652 mg). MS (APCl) Calc.: 432.0, Found: 430.9 (M−1).

reactant | 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride | 2.2 mmol, 920 mg | ClC1=C(OC=2C=CC(=C(C2)S(=O)(=O)Cl)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C13H8Cl3NO6S
reactant | triethylamine | 3.4 mmol, 470 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 2.5 mol, 170 μL | C1(CC1)N | C3H7N
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 30 mL | O | H2O
product | N-Cyclopropyl-5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonamide | 652 mg | C1(CC1)NS(=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)OC | C16H14Cl2N2O6S
